US07652055B2
b) (4-Bromo-3-chloro-phenyl)-(4,5-dihydro-1H-imidazol-2-ylmethyl)-amine
To dry toluene (4 ml) under an inert atmosphere at 0° C. was added a toluene solution of trimethylaluminium (1.90 ml, 3.79 mmol, 2 M solution). A solution of ethylenediamine (0.25 ml, 3.79 mmol) in toluene (1.5 ml) was then added dropwise and the reaction mixture was then allowed to warm to room temperature and stirred for 100 min at this temperature before being re-cooled to 0° C. To this mixture was added dropwise a solution of (4-bromo-3-chloro-phenylamino)-acetic acid ethyl ester (0.56 g, 1.90 mmol) in toluene (3 ml). The reaction mixture was then heated at 95° C. for 45 min and then cooled first to room temperature and finally to 0° C. The mixture was quenched by dropwise addition of methanol (1 ml) and when all gas evolution had ceased the mixture was diluted with water and extracted twice with ethyl acetate. The combined organic extracts were dried over sodium sulphate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (SiO2: dichloromethane/methanol=gradient 100:0-98:2) to yield a yellow gum; MS (ISP): 292.1, 290.0, 288.1 ([M+H]+.).

reactant | trimethylaluminium | 3.79 mmol, 2 M, 1.90 ml | C[Al](C)C
reactant | ethylenediamine | 3.79 mmol, 0.25 ml | C(CN)N | C2H8N2
reactant | (4-bromo-3-chloro-phenylamino)-acetic acid ethyl ester | 1.90 mmol, 0.56 g | C(C)OC(CNC1=CC(=C(C=C1)Br)Cl)=O | C10H11BrClNO2
solvent | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | (4-Bromo-3-chloro-phenyl)-(4,5-dihydro-1H-imidazol-2-ylmethyl)-amine | BrC1=C(C=C(C=C1)NCC=1NCCN1)Cl | C10H11BrClN3
